US04006145
100 g of 2-(phenylthio)-5-trifluoromethyl-benzoic acid, 750 ml of absolute methanol and 100 ml of sulphuric acid are heated under reflux for 24 hours. The solution is concentrated under reduced pressure and treated with water and benzene. After equilibration, the organic phase is washed successively with saturated aqueous sodium chloride solution, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution. The benzene phase is subsequently dried over sodium sulphate, filtered and evaporated. There is obtained methyl 2-(phenylthio)-5-trifluoromethyl-benzoate as a yellow oil.

reactant | 2-(phenylthio)-5-trifluoromethyl-benzoic acid | 100 g | C1(=CC=CC=C1)SC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C14H9F3O2S
reactant | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 750 ml | CO | CH4O
product | methyl 2-(phenylthio)-5-trifluoromethyl-benzoate | C1(=CC=CC=C1)SC1=C(C(=O)OC)C=C(C=C1)C(F)(F)F | C15H11F3O2S
